US04743701
The same equipment as described in Example 3 was used. Benzyl cyanide (38.0 grams; 0.325 mole) was mixed with absolute methanol (10.3 grams; 0.322 mole) and toluene (195 ml). With cooling and agitation HCl gas (16 grams; 0.44 mole) was introduced from a weighed cylinder and the mixture was maintained under the same conditions overnight (26 hours). The resulting white slurry was filtered cold and the solid methyl phenylacetimidate hydrochloride (52.8 grams; 88.4% yield) was collected and a portion of it used directly in the next step.

reactant | Benzyl cyanide | 0.325 mole, 38.0 grams | C(C1=CC=CC=C1)C#N | C8H7N
reactant | methanol | 0.322 mole, 10.3 grams | CO | CH4O
reactant | HCl | 0.44 mole, 16 grams | Cl | ClH
solvent | toluene | 195 ml | C1(=CC=CC=C1)C | C7H8
product | methyl phenylacetimidate hydrochloride | 52.8 grams, 88.4% yield | Cl.C1(=CC=CC=C1)CC(OC)=N | InChI=1S/C9H11NO.ClH/c1-11-9(10)7-8-5-3-2-4-6-8;/h2-6,10H,7H2,1H3;1H
